US05840751
3-[(3-Chloromethylphenyl)methyl]-5,6-dihydro-4-hydroxy-6,6-diphenyl-2H-pyran-2-one.
The title compound was prepared as described in General Method 8 using the following: 5,6-dihydro-4-hydroxy-6,6-diphenyl-2H-pyran-2-one (0.300 g, 1.13 mmol), Et3N (0.17 mL, 1.2 mmol), 3-(chloromethyl)benzoyl chloride (0.13 mL, 1.13 mmol), CH2Cl2 (5.0 mL), acetonitrile (5.0 mL), acetone cyanohydrin (0.05 mL, 0.5 mmol), Et3N (0.35 mL, 2.5 mmol), glacial acetic acid (6.0 mL), sodium cyanoborohydride (0.50 g, 7.9 mmol). Purification was achieved by submitting the final residue to column chromatograpy (SiO2, 4/1 hexane/ethyl acetate to 3/2 hexane/ethyl acetate) to provide a solid (0.118 g, 135°-137° .C). 1H NMR (400 MHz, DMSO-d6) δ 11.211 (s, 1 H), 7.418-7.280 (m, 10 H), 7.088 (d, 1 H, 7.5 Hz), 6.975 (t, 1 H, J=7.5 Hz), 6.689 (s, 1 H), 6.513 (d, 1 H, J=7.5 Hz), 4.498 (s, 2 H), 3.540 (s, 2 H), 3.447 (s, 2 H).

reactant | 5,6-dihydro-4-hydroxy-6,6-diphenyl-2H-pyran-2-one | 1.13 mmol, 0.300 g | OC1=CC(OC(C1)(C1=CC=CC=C1)C1=CC=CC=C1)=O | C17H14O3
reactant | Et3N | 1.2 mmol, 0.17 mL | CCN(CC)CC | C6H15N
reactant | 3-(chloromethyl)benzoyl chloride | 1.13 mmol, 0.13 mL | ClCC=1C=C(C(=O)Cl)C=CC1 | C8H6Cl2O
reactant | acetone cyanohydrin | 0.5 mmol, 0.05 mL | CC(C#N)(O)C | C4H7NO
reactant | Et3N | 2.5 mmol, 0.35 mL | CCN(CC)CC | C6H15N
reactant | sodium cyanoborohydride | 7.9 mmol, 0.50 g | C(#N)[BH3-].[Na+]
solvent | acetic acid | 6.0 mL | C(C)(=O)O | C2H4O2
solvent | acetonitrile | 5.0 mL | C(C)#N | C2H3N
solvent | CH2Cl2 | 5.0 mL | C(Cl)Cl | CH2Cl2
product | 3-[(3-Chloromethylphenyl)methyl]-5,6-dihydro-4-hydroxy-6,6-diphenyl-2H-pyran-2-one | ClCC=1C=C(C=CC1)CC=1C(OC(CC1O)(C1=CC=CC=C1)C1=CC=CC=C1)=O | C25H21ClO3
